US07504404B2
Step 1) 5-(4-Chloro-phenyl)-3-methyl-pyridin-2-ylamine
Prepared as described in example C.32 (step 4) from commercially available 2-amino-5-bromo-3-methyl-pyridine (4 g, 21.4 mmol) and commercially available 4-chlorophenylboronic acid (3.68 g, 23.5 mmol). Obtained as an off-white solid (3.86 g, 83%). MS (EI) 218.1 [(M)+]; mp 156° C.

reactant | 2-amino-5-bromo-3-methyl-pyridine | 21.4 mmol, 4 g | NC1=NC=C(C=C1C)Br | C6H7BrN2
reactant | 4-chlorophenylboronic acid | 23.5 mmol, 3.68 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | 5-(4-Chloro-phenyl)-3-methyl-pyridin-2-ylamine | 3.86 g, 83% | ClC1=CC=C(C=C1)C=1C=C(C(=NC1)N)C | C12H11ClN2
